US06403610B1
3.9 cm3 of 1N aqueous sodium hydroxide were added to a solution of 0.6 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-3-yl)prop-2ynyl]piperidine-3-carboxylate in 10 cm3 of dioxane and then the mixture was heated at a temperature in the region of 65° C. for 16 hours. The mixture was cooled and then the organic phase was extracted with 3 times 50 cm3 of ethyl acetate. The aqueous phase was acidified with 3.9 cm3 of 1N hydrochloric acid. The solution was taken up in 10 cm3 of a saturated aqueous sodium bicarbonate solution and then the organic phase was extracted with 2 times 20 cm3 of ethyl acetate and 2 times 20 cm3 of dichloromethane, dried over sodium sulfate, filtered, and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 45° C. 0.32 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-3-yl)prop-2-ynyl]piperidine-3-carboxylic acid was obtained in the form of a foam with a white color.

reactant | sodium hydroxide | 1N, 3.9 cm3 | [OH-].[Na+]
reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-3-yl)prop-2ynyl]piperidine-3-carboxylate | 0.6 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#CC1=CSC=C1)C(=O)OC | C27H30N2O3S
solvent | dioxane | 10 cm3 | O1CCOCC1 | C4H8O2
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-3-yl)prop-2-ynyl]piperidine-3-carboxylic acid | 0.32 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#CC1=CSC=C1)C(=O)O | C26H28N2O3S
